US07312359B2
The 6-fluoro-4-iodo-benzoimidazole-1-carboxylic acid tert-butyl ester used in this step was prepared from 5-fluoro-3-iodo-benzene-1,2-diamine according to the procedure of Weber et al., WO 9400124. Briefly, a mixture of 5-fluoro-3-iodo-benzene-1,2-diamine (1.3 grams, 5.16 mmoles) and 1.5 mL of 96% formic acid was stirred at 1000 for 3 hours, then cooled, and 35 mL 5% sodium hydroxide was added. The mixture was cooled in an ice bath and the resulting solid was collected, washed with water and dried in vacuo to provide 1.16 grams (86%) 6-fluoro-4-iodo-1H-benzoimidazole, m.p. 210-211° C. A mixture of 1.0 gram (3.8 mmoles) of this benzimidazole, di-tert-butyl dicarbonate (0.92 grams, 4.2 mmole), and 5 mg dimethylaminopyridine in 15 mL dioxane was stirred at 80° C. for 20 hours, then concentrated under reduced pressure. Purification of the residue by column chromatography over silica gel 230-400 mesh eluting with 30% ethyl acetate in hexane gave 6-fluoro-4-iodo-benzoimidazole-1-carboxylic acid tert-butyl ester as a crystalline solid, 1.38 grams (100%), m.p. 73-74° C.

reactant | 6-fluoro-4-iodo-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=NC2=C1C=C(C=C2I)F | C12H12FIN2O2
reactant | 5-fluoro-3-iodo-benzene-1,2-diamine | FC1=CC(=C(C(=C1)N)N)I | C6H6FIN2
reactant | 5-fluoro-3-iodo-benzene-1,2-diamine | 5.16 mmoles, 1.3 grams | FC1=CC(=C(C(=C1)N)N)I | C6H6FIN2
reactant | sodium hydroxide | 35 mL | [OH-].[Na+]
solvent | formic acid | 1.5 mL | C(=O)O | CH2O2
product | 6-fluoro-4-iodo-1H-benzoimidazole | 1.16 grams, 86% | FC=1C=C(C2=C(NC=N2)C1)I | C7H4FIN2
